US07291619B2
1-Boc-4-(2-thiazol-2-ylmethyl-phenyl)-piperazine
Thiazole was lithiated with n-butyllithium and reacted with N-Boc-4-(2-formylphenyl)-piperazine in a manner similar to preparation 113A. The resulting alcohol was deoxygenated in a manner similar to preparation 115A to afford the final compound. LRMS (ESI+): 360.1 (M+1)

reactant | Thiazole | S1C=NC=C1 | C3H3NS
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-Boc-4-(2-formylphenyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)C=O | C16H22N2O3
product | 1-Boc-4-(2-thiazol-2-ylmethyl-phenyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CC=1SC=CN1 | C19H25N3O2S
